US05656642
1.04 g of 1,3,5-triazine was added to a solution of 3.7 g of methyl 3-hydrazinobenzoate hydrochloride in 20 ml of ethanol. The mixture was refluxed by heating, for 3 hours. The reaction mixture was allowed to cool and mixed with chloroform. The resulting insolubles were removed by filtration. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluant: methylene chloride/methanol=100/0 to 100/1) and then subjected to crystallization from diisopropyl ether. The crystals were collected by filtration to obtain 2.0 g of methyl 3-(1,2,4-triazol-1-yl)benzoate as colorless needle-like crystals.

reactant | 1,3,5-triazine | 1.04 g | N1=CN=CN=C1 | C3H3N3
reactant | methyl 3-hydrazinobenzoate hydrochloride | 3.7 g | Cl.N(N)C=1C=C(C(=O)OC)C=CC1
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | methyl 3-(1,2,4-triazol-1-yl)benzoate | 2.0 g | N1(N=CN=C1)C=1C=C(C(=O)OC)C=CC1 | C10H9N3O2
